US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound I)
To a cooled solution (−15° C.) of (3R,4S,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol in 1:1 CH2Cl2:CH3CN was added triethylsilane followed by addition of BF3.Et2O at a rate such that the temperature was maintained between −15° C. and −10° C. under argon. The reaction mixture was stirred for 4 h prior to being quenched by satd NaHCO3. It was evaporated and the residue was partitioned between EtOAc and water. The organic layer was separated, washed 2× with brine and dried over Na2SO4. Concentration gave a residue, which was purified by preparative TLC (EtOAc:MeOH=20:1, Rf=0.6) to yield 58 mg of title compound as a white solid. 1H-NMR (CD3OD, 400 MHz) δ 7.46 (s, 1H), 7.35 (s, 1H), 7.04 (s, 4H), 5.92-5.86 (m, 1H), 5.25 (dd, J=17.2 Hz, 1.6 Hz, 1H), 5.09 (dd, J=10.4 Hz, 1.6 Hz, 1H), 4.68 (m, 3H), 4.48 (d, J=9.2 Hz, 1H), 4.05-3.86 (m, 4H), 3.83 (dd, J=12.4 Hz, 2.4 Hz, 1H), 3.71-3.62 (m, 2H), 3.50-3.46 (m, 1H), 3.26-3.22 (m, 1H), 2.78-2.74 (m, 1H), 1.13 (d, J=7.2 Hz, 6H); LC-MS (m/z) 463 [(M+1)+].

reactant | (3R,4S,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC | C26H33ClO7
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | BF3.Et2O | B(F)(F)F.CCOCC
solvent | CH3CN | CC#N | C2H3N
product | (2S,3R,4R,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 58 mg | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C25H31ClO6
